US07157487B2
In methylene chloride (20 ml) was dissolved tert-butyl (4-((2-indolylcarbonyl)amino)-3-methoxyphenyl)acetate (1.31 g, 3.44 mmol). To the resulting solution was added TFA (10 ml) at 0° C. After the reaction mixture was stirred at room temperature for 1 hour, the reaction mixture was distilled under reduced pressure to remove the solvent, whereby (4-((2-indolylcarbonyl)amino)-3-methoxyphenyl)acetic acid (1.11 g, 99%) was obtained as a brown solid.

reactant | tert-butyl (4-((2-indolylcarbonyl)amino)-3-methoxyphenyl)acetate | 3.44 mmol, 1.31 g | N1C(=CC2=CC=CC=C12)C(=O)NC1=C(C=C(C=C1)CC(=O)OC(C)(C)C)OC | C22H24N2O4
reactant | TFA | 10 ml | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | methylene chloride | 20 ml | C(Cl)Cl | CH2Cl2
product | (4-((2-indolylcarbonyl)amino)-3-methoxyphenyl)acetic acid | 1.11 g, 99% | N1C(=CC2=CC=CC=C12)C(=O)NC1=C(C=C(C=C1)CC(=O)O)OC | C18H16N2O4
